US09301951B2
Intermediate 263a: 2-(5-(diethylamino)-2-(3-(16-(4-(4-hydroxyphenyl)piperazin-1-yl)-16-oxo-4,7,10,13-tetraoxahexadecyl)benzamido)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide
To a solution of 16-(3-(4-(diethylamino)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)phenyl)-4,7,10,13-tetraoxahexadecan-1-oic acid (300 mg, 0.37 mmol), 4-(piperazin-1-yl)phenol (71 mg, 0.40 mmol) and DIPEA (142 mg, 1.1 mmol) in DMF (3 mL) was added HATU (160 mg, 0.42 mmol). After 30 minutes, the solvent was removed under vacuum and the residue was dissolved in DCM (50 mL). This was washed with water (4×25 mL), dried (Na2SO4) and concentrated to give the title compound (379 mg).

reactant | 16-(3-(4-(diethylamino)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)phenyl)-4,7,10,13-tetraoxahexadecan-1-oic acid | 0.37 mmol, 300 mg | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C=CC1)CCCOCCOCCOCCOCCC(=O)O)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C43H51F3N4O8
reactant | 4-(piperazin-1-yl)phenol | 0.40 mmol, 71 mg | N1(CCNCC1)C1=CC=C(C=C1)O | C10H14N2O
reactant | DIPEA | 1.1 mmol, 142 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.42 mmol, 160 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(5-(diethylamino)-2-(3-(16-(4-(4-hydroxyphenyl)piperazin-1-yl)-16-oxo-4,7,10,13-tetraoxahexadecyl)benzamido)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 379 mg | C(C)N(C=1C=CC(=C(C1)C=1C=C(C(=O)NCC2=CC(=CC=C2)C(F)(F)F)C=CN1)NC(C1=CC(=CC=C1)CCCOCCOCCOCCOCCC(=O)N1CCN(CC1)C1=CC=C(C=C1)O)=O)CC | C53H63F3N6O8
